US06310102B1
(E)-4-(3-Aminophenyl)-3-buten-1-amine
A mixture of (E)-N-[4-(3-aminophenyl)-3-butenyl]phthalimide (3.50 g, 12.0 mmol) in ethanol (50 mL) was treated with 50 g of a 25% (w/w) solution of methylamine in ethanol. The resulting yellow solution was stirred at room temperature for 3 h and concentrated on a rotary evaporator. The product was vacuum dried at 50° C. for 1 h to give 4.26 g of a viscous, orange-yellow oil. The oil was purified by column chromatography on silica gel (200 g), eluting with methanol-concentrated ammonium hydroxide (10:1, v/v). Based upon TLC analysis, selected fractions were combined and concentrated on a rotary evaporator. The product was purified by vacuum distillation (bulb to bulb) to give 124 mg (6.4%) of a colorless oil, bp 105-110° C. at 0.075 mm Hg. Purification of a second fraction by vacuum distillation produced an additional 141 mg of a colorless oil, bp 104-105° C. at 0.075 mm Hg, bringing the total yield to 249 mg (12.8%).

reactant | (E)-N-[4-(3-aminophenyl)-3-butenyl]phthalimide | 12.0 mmol, 3.50 g | NC=1C=C(C=CC1)/C=C/CCN1C(C=2C(C1=O)=CC=CC2)=O | C18H16N2O2
reactant | methylamine | CN | CH5N
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | (E)-4-(3-Aminophenyl)-3-buten-1-amine | 124 mg, 6.4% | NC=1C=C(C=CC1)/C=C/CCN | C10H14N2
